US07485732B2
Step 1 tert-butyl 3-[1-(3,5-difluorophenyl)-1-hydroxy-2,2-diethylpropyl]azetidine-1-carboxylate
To a solution of 3.07 g (10.34 mmol) of tert-butyl 3-(3,5-difluorobenzoyl)azetidine-1-carboxylate in 20 mL of THF, 36.19 mL (36.19 mmol) of tert-butyl magnesium chloride was added and stirred for 3.5 h at −78° C. To the solution was added 8 mL of aq. NH4Cl and the solution was filtered to remove the solid. The filtrate was washed with ether. The combined organic layer was concentrated to remove solvents and residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound; 1H-NMR(CDCl3) δ 0.897 (s, 9H), 1.425 (s, 9H), 2.234(br, 1H), 3.25 (m, 1H), 3.55 (m, 1H), 3.71 (t, J=8.9 Hz, 1H), 3.97 (t, J=8.4 Hz, 1H), 4.17(m ,1H), 6.53-6.74 (m, 3H).

reactant | tert-butyl 3-(3,5-difluorobenzoyl)azetidine-1-carboxylate | 10.34 mmol, 3.07 g | FC=1C=C(C(=O)C2CN(C2)C(=O)OC(C)(C)C)C=C(C1)F | C15H17F2NO3
reactant | tert-butyl magnesium chloride | 36.19 mmol, 36.19 mL | C(C)(C)(C)[Mg]Cl
reactant | NH4Cl | 8 mL | [NH4+].[Cl-]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-[1-(3,5-difluorophenyl)-1-hydroxy-2,2-diethylpropyl]azetidine-1-carboxylate | FC=1C=C(C=C(C1)F)C(C(C)(CC)CC)(O)C1CN(C1)C(=O)OC(C)(C)C | C21H31F2NO3
